US06265426B1
A solution of 3-[2-(3,4-dichloro-phenyl)-3H-imidazol-4-yl]-benzonitrile (4.1 g, 13 mmol), in THF (130 ml) was slowly added to an ice-cooled mixture of lithium aluminum hydride (0.99 g, 26 mmol) in THF (130 ml). The mixture was stirred for 30 min. at r.t., then saturated Seignette-salt solution (5 ml) was added slowly and stirring was continued for 30 min. The precipitate was filtered and the organic phase evaporated and chromatographed over SiO2 with CH2Cl2—CH3OH—NH4OH (140:10:1) to obtain 3-[2-(3,4-dichloro-phenyl)-3H-imidazol-4-yl]-benzylamine (1.77 g, 43%) as a foam. The hydrochloride salt was then prepared which was crystallized to an off-white solid. Mp. >250° C. (MeOH/Et2O), MS: m/e=318 (M+H+).

reactant | 3-[2-(3,4-dichloro-phenyl)-3H-imidazol-4-yl]-benzonitrile | 13 mmol, 4.1 g | ClC=1C=C(C=CC1Cl)C1=NC=C(N1)C=1C=C(C#N)C=CC1 | C16H9Cl2N3
reactant | lithium aluminum hydride | 26 mmol, 0.99 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | THF | 130 ml | C1CCOC1 | C4H8O
product | 3-[2-(3,4-dichloro-phenyl)-3H-imidazol-4-yl]-benzylamine | 1.77 g, 43% | ClC=1C=C(C=CC1Cl)C1=NC=C(N1)C=1C=C(CN)C=CC1 | C16H13Cl2N3
